US04157445
PREPARATION OF QUINOLINE
Twenty grams of nitrobenzene, 1.1 grams of iodo (4-iodophenyl) bis(triphenylphosphine)palladium catalyst and 39 grams of liquified propylene was placed in a 300 ml. stainless steel rocking autoclave and cooled to -78° C. The vessel was sealed and heated to 220° C. This temperature was maintained for 24 hours. The autoclave was then cooled and vented. The reaction mixture removed from the autoclave was analyzed by gas chromatography and found to contain 0.32 grams of quinoline (1.9% efficiency) 5.8 grams of aniline (44.0% efficiency) and 2.8 grams of unreacted nitrobenzene.

reactant | nitrobenzene | Twenty grams | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | propylene | 39 grams | C=CC | C3H6
product | QUINOLINE | N1=CC=CC2=CC=CC=C12 | C9H7N
